US08471005B2
N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-5-methyl-phenyl]-methanesulfonamide (530 mg, 1.4 mmol) was dissolved in 20 mL of dry and warm DMF. The solution was cooled (ice bath). Potassium carbonate (0.80 g, 5.8 mmol) in N,N-Dimethylformamide (20 mL, 200 mmol) was added followed by methyl iodide (270 uL, 4.4 mmol). After 18 h, the mixture was stirred at room temperature overnight. The mixture was filtered and the solvent was evaporated. The product was purified by flash chromatography (ISCO, EtOAc to EtOAc: MeOH 90:10). The product, N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-5-methyl-phenyl]-N-methyl-methanesulfonamide, was obtained as a solid (320 mg, 58%). LCMS (E/I+) 379 (M+H).

reactant | N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-5-methyl-phenyl]-methanesulfonamide | 1.4 mmol, 530 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=C(C=C2)C)NS(=O)(=O)C | C15H16N4O3S2
reactant | Potassium carbonate | 5.8 mmol, 0.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-Dimethylformamide | 200 mmol, 20 mL | CN(C=O)C | C3H7NO
reactant | methyl iodide | 4.4 mmol, 270 uL | CI | CH3I
product | N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-5-methyl-phenyl]-N-methyl-methanesulfonamide | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=C(C=C2)C)N(S(=O)(=O)C)C | C16H18N4O3S2
